US07053060B2
To 3,5-dimethylphenol (12 g) were added lithium hydroxide monohydrate (4.2 g) and 4-methoxybenzyl chloride (14 mL) at 85° C., and the mixture was stirred 1.5 hours. The reaction mixture was cooled to ambient temperature and purified by column chromatography on silica gel (eluent: dichloromethane) to give 2-(4-methoxybenzyl)-3,5-dimethylphenol (5.1 g).

reactant | 3,5-dimethylphenol | 12 g | CC=1C=C(C=C(C1)C)O | C8H10O
reactant | lithium hydroxide monohydrate | 4.2 g | O.[OH-].[Li+]
reactant | 4-methoxybenzyl chloride | 14 mL | COC1=CC=C(CCl)C=C1 | C8H9ClO
product | 2-(4-methoxybenzyl)-3,5-dimethylphenol | 5.1 g | COC1=CC=C(CC2=C(C=C(C=C2C)C)O)C=C1 | C16H18O2
